US05006520
By conducting reactions and treatments in the same manner as in Example 66 (3), using 4.6 g of ethyl 3-[4-(2dimethylaminoethylamino)phenyl]-1H-pyrazolo[3,4-b]pyridin-1-ylacetate and 0.65 g of sodium hydroxide and recrystallizing from hydrous methanol, there was obtained 3-[4-(2-dimethylaminoethylamino)phenyl]-1H-pyrazolo[3,4-b]pyridin-1-ylacetic acid, m.p. 240°-242° C.

reactant | ethyl 3-[4-(2dimethylaminoethylamino)phenyl]-1H-pyrazolo[3,4-b]pyridin-1-ylacetate | 4.6 g | CN(CCNC1=CC=C(C=C1)C1=NN(C2=NC=CC=C21)CC(=O)OCC)C | C20H25N5O2
reactant | sodium hydroxide | 0.65 g | [OH-].[Na+]
product | 3-[4-(2-dimethylaminoethylamino)phenyl]-1H-pyrazolo[3,4-b]pyridin-1-ylacetic acid | CN(CCNC1=CC=C(C=C1)C1=NN(C2=NC=CC=C21)CC(=O)O)C | C18H21N5O2
